US08633237B2
N-(5-((2-(trifluoromethyl)phenoxy)methyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide
A mixture of N-(5-(chloromethyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide (30 mg, 0.104 mmol), 2-(trifluoromethyl)phenol (16.90 mg, 0.104 mmol), and potassium carbonate (28.8 mg, 0.208 mmol) in N,N-dimethylformamide (1 mL) was stirred at 60° C. overnight. The reaction mixture was partitioned between aq. sat. NaHCO3 (4 mL) and DCM (4 mL), filtered over a phase separator, and the organic phase was concentrated by blow down. Purification by flash chromatography (0-60% EtOAc in Heptane) and freeze drying from acetonitrile/water gave the title compound as a white solid (24 mg, 55.7%). MS (ESI): m/z [M−H]− 412.0.

reactant | N-(5-(chloromethyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 0.104 mmol, 30 mg | ClCC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C13H18ClNO2S
reactant | 2-(trifluoromethyl)phenol | 0.104 mmol, 16.90 mg | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 0.208 mmol, 28.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-(5-((2-(trifluoromethyl)phenoxy)methyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 24 mg, 55.7% | FC(C1=C(OCC=2C=C3CCC(C3=CC2)NS(=O)(=O)C(C)C)C=CC=C1)(F)F | C20H22F3NO3S
